US04983723
Separetely, 16 g of potassium t-butoxide was dissolved in 21 ml of dry dimethyl sulfoxide (hereinafter "DMSO"), and a solution of 1.9 g of the above prepared dibromide in 5 ml of DMSO was added thereto over 10 minutes, followed by heating at 50° C. for 1 hour. The reaction mixture was poured into 100 ml of water and extracted with diethyl ether. The extract was washed successively with water and a saturated sodium chloride aqueous solution, and dried. After filtration, the filtrate was concentrated under reduced pressure to obtain 1.5 g of an acetylene triacetate compound.

reactant | potassium t-butoxide | 16 g | CC(C)([O-])C.[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethyl sulfoxide | 21 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | acetylene triacetate | 1.5 g | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.C#C | InChI=1S/3C2H4O2.C2H2/c3*1-2(3)4;1-2/h3*1H3,(H,3,4);1-2H
